US04717726
EXAMPLE 1--Preparation of 3,5-dichloro-2,4-dimethoxy-6-(trichloromethyl)pyridine
A 50.0 g portion (0.15 mol) of 2,3,4,5-tetrachloro-6-(trichloromethyl)pyridine was dissolved in 50 ml of warm dimethyl sulfoxide and 100 ml of methanol was added. Sodium methoxide (68.5 ml of 25 percent solution in methanol, 0.30 mol) was added, with stirring, over a 30 minute period and the resulting mixture was heated to reflux, with stirring, for two hours. After cooling, the mixture was poured into ice water and the aqueous mixture was extracted twice with methylene chloride. The extract was washed with water and evaporated to remove the methylene chloride. Traces of dimethyl sulfoxide remained. The residue was dissolved in ether and the ethereal solution was washed with water, dried over magnesium sulfate, and evaporated under reduced pressure to obtain 39.4 g of white solid product (81 percent of theory) melting at 67°-69° C. The proton nmr spectrum was consistent with the structure given.

reactant | 2,3,4,5-tetrachloro-6-(trichloromethyl)pyridine | 0.15 mol | ClC1=NC(=C(C(=C1Cl)Cl)Cl)C(Cl)(Cl)Cl | C6Cl7N
reactant | methanol | 100 ml | CO | CH4O
reactant | Sodium methoxide | 0.30 mol, 68.5 ml | C[O-].[Na+]
solvent | dimethyl sulfoxide | 50 ml | CS(=O)C | C2H6OS
product | 3,5-dichloro-2,4-dimethoxy-6-(trichloromethyl)pyridine | 39.4 g | ClC=1C(=NC(=C(C1OC)Cl)C(Cl)(Cl)Cl)OC | C8H6Cl5NO2
